* source TRANMITTER
V_V1         N00169 N00182 9Vdc
R_R1         N00178 N00169  470 TC=0,0 
R_R2         N00182 N00197  1.3k TC=0,0 
R_R3         N00201 N00197  220 TC=0,0 
X_U1         N00169 N00197 N00201 LM317
X_D1         N00178 N00182 LED PARAMS: IS=1.7603e-27 RS=2  BV=5 IBV=10e-6      
+    
C_C1         N00182 N00197  .1pf  TC=0,0 
X_D2         N00197 N00182 BAT62-02w/INF
